US05635510
26.3 Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid
1-[2-[3-(3,4-Dichloro-phenyl)-1-(3,4,5-trimethoxybenzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid methyl-ester (0.393 g, 0.60 mmol) and NaOH (6 mL, 1N, 6 mmol) were combined in ethanol (12 mL). The mixture was stirred for 48 h at ambient temperature. 1N HCl was added to adjust the pH to 1. The aqueous phase was extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo to obtain a residue. The residue was chromatographed on silica gel eluting sequentially with 10% methanol in dichloromethane and then 20% methanol in dichloromethane. The fractions which contained the title compound were washed with H2O, dried over MgSO4, filtered, and concentrated in vacuo to give the title compound:

reactant | 1-[2-[3-(3,4-Dichloro-phenyl)-1-(3,4,5-trimethoxybenzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid methyl-ester | 0.60 mmol, 0.393 g | COC(=O)C1(CCN(CC1)CCC1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C35H40Cl2N2O6
reactant | NaOH | 6 mmol, 1N, 6 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C34H38Cl2N2O6
